* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1469-2.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 OUT N002 22.1K
R2 N001 IN 11K
V3 IN 0 AC 1
R3 0 N001 121
C1 N002 N001 1000p
C2 OUT N001 1000p
X§U1 0 N002 +V -V OUT LT1468-2
.ac oct 100 10K 1Meg
* 100KHz Low Distortion Bandpass Filter
.lib LTC4.lib
.backanno
.end
